US07943619B2
3-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-6-pyrrolidin-1-yl-pyridazine
To a solution of 3-chloro-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine (300 mg, 1.0 mmol) in toluene (5 mL) was added pyrrolidine (0.10 mL, 1.2 mmol), sodium tert-butoxide (115 mg, 1.2 mmol), (±)-2,2′-bis(diphenylphosphino)-1,1-binaphtalene (19 mg, 0.03 mmol) and tris(dibenzylideneacetone)dipalladium chloroform complex (10 mg, 0.01 mmol). The resulting mixture was heated at 110° C. for 55 min with microwave heating. Then the reaction mixture was concentrated and extracted (ethyl acetate/brine). The organic phase was dried over sodium sulfate, concentrated and chromatographed (SiO2, dichloromethane:methanol=100:0 to 99:1) to afford the title compound as a light yellow oil (80 mg, 24%). MS: m/e=337.5 [M+H]−.

reactant | 3-chloro-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine | 1.0 mmol, 300 mg | ClC=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C15H12ClN3O2
reactant | pyrrolidine | 1.2 mmol, 0.10 mL | N1CCCC1 | C4H9N
reactant | sodium tert-butoxide | 1.2 mmol, 115 mg | CC(C)([O-])C.[Na+]
reactant | (±)-2,2′-bis(diphenylphosphino)-1,1-binaphtalene | 0.03 mmol, 19 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-6-pyrrolidin-1-yl-pyridazine | 80 mg, 24% | CC1=C(C(=NO1)C1=CC=CC=C1)COC=1N=NC(=CC1)N1CCCC1 | C19H20N4O2
